US06410581B1
At 5 to 10° C., 18.4 g (0.17 mol) of ethyl chloroformate are added dropwise with cooling to a solution of 36.3 g (0.17 mol) of 4-hydroxy-3-propyl-biphenyl in 160 ml of ethyl acetate and 17.2 g (0.17 mol) of triethylamine. The solution is left standing overnight at 20° C. and washed with water and dilute hydrochloric acid, and the organic phase is dried and concentrated 45 g (yield 93.2% of theory) of (4-phenyl-2-propyl-phenyl) ethyl carbonate are obtained as a pale oil of log p=4.76 (pH=2.3).

reactant | ethyl chloroformate | 0.17 mol, 18.4 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-hydroxy-3-propyl-biphenyl | 0.17 mol, 36.3 g | OC1=C(C=C(C=C1)C1=CC=CC=C1)CCC | C15H16O
reactant | triethylamine | 0.17 mol, 17.2 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 160 ml | C(C)(=O)OCC | C4H8O2
product | (4-phenyl-2-propyl-phenyl) ethyl carbonate | 45 g, yield 93.2% | C(OC1=C(C=C(C=C1)C1=CC=CC=C1)CCC)(OCC)=O | C18H20O3
